US09023846B2
A solution of 2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-3H-imidazo[4,5-c]pyridine (22.6 mg, 0.061 mmol, as prepared above) in Et2O (1 mL) was treated with 1 M HCl in Et2O (0.068 mL, 0.068 mmol). The resulting mixture was stirred at room temperature for 10 min and concentrated. The residue was dried in vacuo to yield 2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-3H-imidazo[4,5-c]pyridine hydrochloride. 1H-NMR (400 MHz, CD3OD) δ: 9.28 (s, 1H), 8.13 (s, 1H), 7.66-7.71 (m, 2H), 7.63 (td, J=7.7, 1.8 Hz, 1H), 7.53-7.60 (m, 1H), 7.02 (s, 1H), 4.36 (s, 3H), 1.35 (s, 9H). Mass Spectrum (LCMS, ESI pos.) Calculated For C20H20ClN5: 366.1 (M+H), Measured: 366.2.

reactant | 2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-3H-imidazo[4,5-c]pyridine | 0.061 mmol, 22.6 mg | C(C)(C)(C)C=1C=C(N(N1)C)C1=NC2=C(C=NC(=C2)C2=C(C=CC=C2)Cl)N1 | C20H20ClN5
reactant | HCl | 1 M | Cl | ClH
solvent | Et2O | 1 mL | CCOCC | C4H10O
solvent | Et2O | 0.068 mmol, 0.068 mL | CCOCC | C4H10O
product | 2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-3H-imidazo[4,5-c]pyridine hydrochloride | Cl.C(C)(C)(C)C=1C=C(N(N1)C)C1=NC2=C(C=NC(=C2)C2=C(C=CC=C2)Cl)N1 | InChI=1S/C20H20ClN5.ClH/c1-20(2,3)18-10-17(26(4)25-18)19-23-15-9-14(22-11-16(15)24-19)12-7-5-6-8-13(12)21;/h5-11H,1-4H3,(H,23,24);1H
